US08497264B2
A 3-neck RBF equipped with an addition funnel and reflux condenser was charged with zinc dust (37.9 g, 580 mmol) and diethyl ether (300 ml). Bromine (1.544 ml, 29.0 mmol) was added drop wise to the stirring suspension at RT. After 5 minutes, ethyl 2-bromoacetate (32.3 ml, 290 mmol) was added drop wise via addition funnel over the time period of 1 hour. The reaction mixture was heated to reflux for one hour. 7-Bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-one (30 g, 97 mmol) was added in one portion followed by THF (200 ml). After stirring at 40° C. for 10 minutes, the reaction mixture was cooled to RT and quenched with saturated aqueous ammonium chloride solution (250 mL). The reaction mixture was stirred for 1 hour before diluting with EtOAc and filtering through a pad of celite. The organic layer was separated, washed with brine and dried over MgSO4. The solution was concentrated under reduced pressure to afford ethyl 2-(7-bromo-3-chloro-5-hydroxy-5H-chromeno[2,3-c]pyridin-5-yl)acetate (40.3 g) which was used in the next step without further purification.

reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
reactant | Bromine | 29.0 mmol, 1.544 ml | BrBr | Br2
reactant | ethyl 2-bromoacetate | 290 mmol, 32.3 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 7-Bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-one | 97 mmol, 30 g | BrC=1C=C2C(C3=C(C=NC(=C3)Cl)OC2=CC1)=O | C12H5BrClNO2
catalyst | zinc | 580 mmol, 37.9 g | [Zn] | Zn
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | ethyl 2-(7-bromo-3-chloro-5-hydroxy-5H-chromeno[2,3-c]pyridin-5-yl)acetate | 40.3 g | BrC=1C=C2C(C3=C(C=NC(=C3)Cl)OC2=CC1)(O)CC(=O)OCC | C16H13BrClNO4
